Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
cucumber / Tegaderm
 
Attending: ___
 
Chief Complaint:
Surgical absence of L breast
 
Major Surgical or Invasive Procedure:
1) ___ - Right prophylactic mastectomy, bilateral ___ 
reconstruction
2) ___ - take back to OR for exploration of left flap 
vessels
 
History of Present Illness:
___ is a ___ year old female with history of L breast
cancer (Stage I IDC and Paget's) and previous left sided 
mastectomy & SLNB. She was admitted to the hospital after her 
prophylactic R mastectomy with ___ reconstruction on 
___. She was taken back to the OR on ___ for flap 
exploration due to declining Vioptix recordings. 
 
Past Medical History:
PNC:
- ___ ___ by US
- Labs: Rh+/ab neg/RPRNR/RI/HBsAg neg/HIV neg/ GBS unknown
- Genetics: LR ERA
- FFS: wnl 
- GLT: wnl
- US: ___, 67%, breech, ___, nl fluid, anterior placenta
- Issues:
*) breast cancer in pregnancy: unilateral mastectomy w/ sentinel
LN biopsy, s/p chemotherapy completed ___, plan for PP 
tamoxifen

*) mild asthma
*) History of papillary thyroid cancer x 2, on levothyroxine
175mcg daily; labs ___ - TSH 4.3 (elevated) but normal FT4 
(1.1)

ROS: per hpi  

GYNHx: h/o breast cancer

OBHx: G1, current
  
PMH: h/o breast cancer, mild asthma, h/o papillary
  
PSH: s/p unilateral mastectomy w/ sentinel LN biopsy
 
Social History:
___
Family History:
Family history: Aunt and mother with ALS. Mother, aunt,
grandmother: ___.  Father--prostate cancer (age ___
 
Physical Exam:
Gen: Well-appearing F in no acute distress. 
HEENT: Normocephalic. Sclerae anicteric. 
CV: RRR
R: Breathing comfortably on room air. No wheezing.

Breasts: Bilateral reconstructed breasts soft and without
palpable fluid collection, right mastectomy flap with lateral
ecchymosis, ___ skin paddles warm bilaterally with good
capillary refill, JP drains x 2 to bulb suction draining
serosanguinous fluid

Abdomen: Soft, non-distended; umbilicus viable; lower abdominal
incision without erythema or drainage; JP drains x2 to bulb
suction draining serosanguinous fluid   
Ext: No cyanosis or edema
 
Pertinent Results:
___ 04:38AM BLOOD WBC-12.0* RBC-2.88* Hgb-8.8* Hct-26.3* 
MCV-91 MCH-30.6 MCHC-33.5 RDW-13.2 RDWSD-44.3 Plt ___
___ 03:44AM BLOOD WBC-11.3* RBC-3.32* Hgb-10.2* Hct-29.5* 
MCV-89 MCH-30.7 MCHC-34.6 RDW-13.0 RDWSD-42.0 Plt ___ - OR - Right prophylactic mastectomy, bilateral ___ 
reconstruction. Per protocol, patient stayed in PACU overnight. 

___ - OR - Patient was recovering well in PACU, with morning 
plan of clear liquid diet, out of bed to chair, and transfer to 
floor. However, Vioptix signal of Left breast with declining 
values, so patient taken back to OR for exploration of L breast 
flap. Again stayed in PACU overnight per protocol

___ - Recovering well. Febrile overnight to "103" but nurse 
removed BAIR hugger and re-measured temperature at 99. clear 
liquid diet, out of bed to chair, transfer to floor

She was admitted to the plastic surgery service, where she was 
began the ___ postoperative pathway. She was given ASA 121.5 
daily (to be continued at discharge), Ancef (transitioned to 
Duricef at discharge), and SCH during her stay. She will 
discharge home 4 with drains in place, to be removed at office 
visit. She will daily bacitracin BID application to right 
mastectomy flap necrosis site. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 175 mcg PO DAILY 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 
3. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 

 
Discharge Medications:
Resume taking your previous home prescriptions, including 
1. Levothyroxine Sodium 175 mcg PO DAILY 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 
3. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
4. LIDOCAINE-PRILOCAINE - lidocaine-prilocaine 2.5 %-2.5 % 
topical
cream. Apply thick layer to port-a-cath site at least 30 minutes
prior to port access. C___ -  (Not Taking as Prescribed)
5. OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. 1 
capsule
by mouth daily for heartburn symptoms -  (Not Taking as
Prescribed)
6. TAMOXIFEN - tamoxifen 20 mg tablet. 1 tablet(s) by mouth 
daily

In addition, patient discharged with these new medications:
1. Aspirin 121.5 mg QD for 1 month
2. Duricef 500mg PO BID x7 days w/ 1 refill
2. Oxycodone ___ tablets, q4-6 hours #50

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Surgical absence of left breast; breast cancer
 
Discharge Condition:
Awake, alert, oriented. Stable
 
Discharge Instructions:
Personal Care: 
1. You may keep your incisions open to air or covered with a 
clean, ___
ile gauze that you change daily. If 
any areas develop blistering, you will need to apply Bactroban 
cream
 twice a day. 
2. Clean around the drain site(s), where the tubing exits the 
skin, w
ith soap and water. 
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times 
per day. 
4. A written record of the daily output from each drain should 
be broug
ht to every follow-up 
appointment. your drains will be removed as soon as possible 
when
 the daily output tapers off to an 
acceptable amount. 
5. DO NOT wear a normal bra for 3 weeks. You may wear a soft, 
loose 
camisole for comfort. 
6. You may shower daily with assistance as needed. Be sure to 
secure
 your upper drains to a lanyard that 
hangs down from your neck so they don't hang down and pull out. 
Y
___ may secure your lower drains to 
a fabric belt tied around your waist. 
7. The Dermabond skin glue will begin to flake off in about ___
 days. 
8. No pressure on your chest or abdomen 
9. Okay to shower, but no baths until after directed by your 
doctor. 
. 
Activity: 
1. You may resume your regular diet. 
2. Keep hips flexed at all times, and then gradually stand 
upright 
as tolerated. 
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous
 activity for 6 weeks following 
surgery. 
. 
Medications: 
1. Resume your regular medications unless instructed otherwise 
and
 take any new meds as ordered . 
2. You may take your prescribed pain medication for moderate to 
severe ___
n. You may switch to Tylenol 
or Extra Strength Tylenol for mild pain as directed on the 
packaging
3. Take prescription pain medications for pain not relieved by 
tyleno
l. 
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescript
ion pain medication. You 
may use a different over-the-counter stool softener if you wish. 

5. Do not drive or operate heavy machinery while taking any 
narcotic pain m
edication. You may have 
constipation when taking narcotic pain medications (oxycodone, 
percocet, vicodin, hydrocodone, dilaudid, 
etc.); you should continue drinking fluids, you may take stool 
soften
ers, and should eat foods that are 
high in fiber. 
. 
Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, sw
___, warmth or tenderness at the surgical 
site, or unusual drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 
. 
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) ___
es, increased redness, 
swelling or discharge from incision, chest pain, shortness of
 breath, or anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern 
you. 
. 
DRAIN DISCHARGE INSTRUCTIONS 
You are being discharged with drains in place. Drain care is a c
lean procedure. Wash your hands 
thoroughly with soap and warm water before performing drain 
care. Perfo
rm drainage care twice a day. 
Try to empty the drain at the same time each day. Pull the 
stopper out of 
the drainage bottle and empty 
the drainage fluid into the measuring cup. Record the amount of 
d
rainage fluid on the record sheet. 
Reestablish drain suction. 

 
Followup Instructions:
___